US06693137B1
N-(4-Fluorobenzyl)-chloroacetamide
To a stirred mixture of 4-fluorobenzylamine (685 uL, 6.0 mmol) and dry tetrahydrofuran (20 mL) was added triethylamine (1.25 mL, 9.0 mmol) under nitrogen. The resulting mixture was stirred for 10 minutes at ambient temperature. Next, chloroacetyl chloride (477 uL, 6.0 mmol) was added and the resulting mixture was stirred for 1 h. at ambient temperature. The resulting mixture was partitioned between ethyl acetate and water. The organic layer was washed with water (2×20 mL) and brine (1×20 mL), dried over magnesium sulfate, and filtered. Evaporation of the filtrate in vacuo followed by chromatography on silica gel eluting with ethyl acetate-hexane gave 1.09 g (91%) of the pure title compound.

reactant | 4-fluorobenzylamine | 6.0 mmol, 685 uL | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | triethylamine | 9.0 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 6.0 mmol, 477 uL | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(4-Fluorobenzyl)-chloroacetamide | 1.09 g, 91% | FC1=CC=C(CNC(CCl)=O)C=C1 | C9H9ClFNO
